US08034938B2
N-{3-[(11S)-6-Amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propyl}methanesulfonamide (254 mg, 0.667 mmol) was dissolved in about 3 mL of trifluoroacetic acid and the solution was placed in a pressure bottle. Platinum oxide (154 mg) was then added and the reaction mixture was shaken under H2 at 50 PSI (3.4×105 Pa). After 24 hours, the reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with a mixture of 2-propanol and CH2Cl2 and the combined filtrates were concentrated under reduced pressure to give a syrup. The syrup was partitioned between H2O and CHCl3. The aqueous layer was made basic by addition of concentrated NH4OH solution until the pH was approximately 12. The layers were separated and the organic portion was washed successively with concentrated NH4OH, H2O and brine. The organic portion was dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 25-33% CMA/CHCl3) gave a white solid. Crystallization from methanol/ethyl acetate gave N-{3-[(11S)-6-amino-2,3,4,8,10,11-hexahydro-1H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propyl}methanesulfonamide (85 mg) as white crystals, mp 197-200° C.

reactant | N-{3-[(11S)-6-Amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propyl}methanesulfonamide | 0.667 mmol, 254 mg | NC1=NC2=CC=CC=C2C2=C1N=C1N2[C@H](COC1)CCCNS(=O)(=O)C | C17H21N5O3S
solvent | trifluoroacetic acid | about 3 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | Platinum oxide | 154 mg | [Pt]=O
product | N-{3-[(11S)-6-amino-2,3,4,8,10,11-hexahydro-1H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]propyl}methanesulfonamide | 85 mg | NC1=NC=2CCCCC2C2=C1N=C1N2[C@H](COC1)CCCNS(=O)(=O)C | C17H25N5O3S
